US04515788
Trifluoroacetic acid (1.4 ml) was added to a suspension of 1-propionyloxyethyl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylate (syn isomer) (1.2 g) in methylene chloride (10 ml) and anisole (0.8 ml) at ambient temperature and the mixture was stirred for 2 hours at the same temperature. To the resulting solution was added diisopropyl ether (50 ml) and the mixture was stirred. The precipitates were collected by filtration, washed with diisopropyl ether. The precipitates were added to a mixture of ethyl acetate and water, and the mixture was adjusted to pH 7.5 with 20% aqueous solution of potassium carbonate. The separated aqueous layer was adjusted to pH 2.0 with 10% hydrochloric acid and extracted with ethyl acetate. The extract layer was washed with saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated. The residue was washed with diisopropyl ether and filtered to give 1-propionyloxyethyl 7-[2-carboxymethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylate (syn isomer) (0.47 g).

reactant | Trifluoroacetic acid | 1.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-propionyloxyethyl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylate | 1.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(C)OC(CC)=O)C1=O)C=1N=CSC1 | C32H30N4O9S2
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 0.8 ml | C1(=CC=CC=C1)OC | C7H8O
product | 1-propionyloxyethyl 7-[2-carboxymethoxyimino-2-(4-thiazolyl)acetamido]-3-cephem-4-carboxylate | 0.47 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(C)OC(CC)=O)C1=O)C=1N=CSC1 | C19H20N4O9S2
